US04530768
Further comparative experiments were undertaken in the same manner as above except that the 0.01 mole/liter aqueous solution of sodium sulfite was replaced with an equal volume of a 0.01 mole/liter aqueous solution of sodium hydrogensulfite or a 0.00491 mole/liter aqueous solution of sodium pyrosulfite to give the results almost identical with those shown by the curve VI in FIG. 1. The residual cyanide concentration was 24.4 ppm or 29.8 ppm after 120 minutes of the treatment with sodium hydrogensulfite or after 129 minutes of the treatment with sodium pyrosulfite, respectively.

reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
product | sodium pyrosulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+] | InChI=1S/2Na.H2O5S2/c;;1-6(2)7(3,4)5/h;;(H,1,2)(H,3,4,5)/q2*+1;/p-2
